US07253286B2
N-Cyclopropyl-N′-(4-(6-(4-(2-diethylaminoethoxy)-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenyl)urea
After dissolving 65 mg of N-cyclopropyl-N′-(4-(6-(4-(2-diethylaminoethoxy)-phenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenyl)urea in 2 ml of tetrahydrofuran, there was added dropwise 0.5 ml of tetrabutylammonium fluoride (1M tetrahydrofuran solution) and the mixture was refluxed for 3 hours. After returning it to room temperature, water was added, the mixture was stirred, and the precipitated crystals were filtered out, washed with water and ether-hexane (1:1) and dried under reduced pressure to obtain 25 mg of the title compound.

reactant | N-cyclopropyl-N′-(4-(6-(4-(2-diethylaminoethoxy)-phenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenyl)urea | 65 mg | C1(CC1)NC(=O)NC1=C(C=C(C=C1)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCCN(CC)CC)COCC[Si](C)(C)C)F | C34H45FN6O4Si
reactant | tetrabutylammonium fluoride | 1M, 0.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-Cyclopropyl-N′-(4-(6-(4-(2-diethylaminoethoxy)-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-2-fluorophenyl)urea | 25 mg | C1(CC1)NC(=O)NC1=C(C=C(C=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)OCCN(CC)CC)F | C28H31FN6O3
